US08685969B2
6. 2-(2-Fluorophenyl)-2-(6-methyl-5-(pyrimidin-5-yloxy)-1H-indol-3-yl)ethanamine
To a spatula of Raney-Ni in a hydrogenation flask was added 3-(1-(2-fluorophenyl)-2-nitroethyl)-6-methyl-5-(pyrimidin-5-yloxy)-1H-indole (0.284 g, 0.724 mmol) in methanol (12.06 mL). The reaction was hydrogenated at 53 psi. After 3 hr, the vessel was evacuated and flushed with nitrogen. The solution was filtered through a pad of CELITE® and rinsed with MeOH. The filtrate was concentrated in vacuo, dissolved in CH2Cl2, dried over Na2SO4, filtered and concentrated in vacuo to give the desired product (0.2405 g, 0.664 mmol, 92% yield).

reactant | 3-(1-(2-fluorophenyl)-2-nitroethyl)-6-methyl-5-(pyrimidin-5-yloxy)-1H-indole | 0.724 mmol, 0.284 g | FC1=C(C=CC=C1)C(C[N+](=O)[O-])C1=CNC2=CC(=C(C=C12)OC=1C=NC=NC1)C | C21H17FN4O3
solvent | methanol | 12.06 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 2-(2-Fluorophenyl)-2-(6-methyl-5-(pyrimidin-5-yloxy)-1H-indol-3-yl)ethanamine | 0.664 mmol, 0.2405 g, 92% yield | FC1=C(C=CC=C1)C(CN)C1=CNC2=CC(=C(C=C12)OC=1C=NC=NC1)C | C21H19FN4O
